US07932247B2
1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate
A solution of (S)-2-methyl piperazine (2 g, 20 mmol) in THF (200 mL) was mixed with nBuLi (25 mL, 1.6 M in hexanes, 40 mmol) at rt. The solution was stirred for 30 min before TBDMSCI (3.04 g, 20 mmol) was added. The mixture was stirred for an additional hour and (Boc)2O (5.2 g, 24 mmol) was added to the solution. The resulting mixture was stirred for another hour and diluted with H2O (50 mL). The organic layer was separated, washed with brine (50 mL), dried over Na2SO4 and concentrated under vacuum. Flash chromatography on silica (5% MeOH/2% NH4OH/93% CH2Cl2) then provided the title compound as a yellow oil (3.7 g, 93%). LC/MS: m/z, 201(M+H); 1HNMR (CDCl3) δ1.26 (3H, d), 1.49 (9H, s), 2.1 (1H, s), 2.7 (1H, m), 2.85 (1H, m), 3.0 (3H, m), 3.8 (1H, m), 4.2 (1H, m).

reactant | (S)-2-methyl piperazine | 20 mmol, 2 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | nBuLi | 40 mmol, 1.6 M, 25 mL | [Li]CCCC
reactant | (Boc)2O | 24 mmol, 5.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 3.7 g, 93% | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
